US07994209B2
3-[(3,5-Dichloro-phenoxy)-(4,4-difluorocyclohexyl)methyl]pyrrolidine
(R)-3-[(S)-(4,4-Difluorocyclohexyl)hydroxymethyl]pyrrolidine-1-carboxylic acid t-butyl ester (44.0 mg, 138 μmmol), copper(I) iodide (7.9 mg, 41 μmmol), o-phenanthroline (15 mg, 83 μmmol) and cesium carbonate (89.8 mg, 276 μmmol) were combined. 1,3-Dichloro-5-iodobenzene (75.2 mg, 276 μmmol) was added, followed by the addition of toluene (220 μL, 2.1 mmol). Air was bubbled through the mixture, the vessel was sealed, and the mixture was heated at 105° C. for 48 hours. The mixture was filtered, rinsed with DCM, and concentrated. The crude material was treated with 1.25M HCl in EtOH (5.8 mL, 7.2 mmol) and stirred overnight. The mixture was concentrated, redissolved in 1:1 AcOH:H2O and purified by preparative HPLC to yield the title compound as a mono-TFA salt (1.5 mg, 96% purity). MS m/z: [M+H]+ calcd for C17H21Cl2F2NO, 364.10; found 364.0.

reactant | (R)-3-[(S)-(4,4-Difluorocyclohexyl)hydroxymethyl]pyrrolidine-1-carboxylic acid t-butyl ester | 44.0 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)[C@@H](O)C1CCC(CC1)(F)F | C16H27F2NO3
reactant | o-phenanthroline | 15 mg | C1=CC2=C(C3=C(C=CC=N3)C=C2)N=C1 | C12H8N2
reactant | cesium carbonate | 89.8 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,3-Dichloro-5-iodobenzene | 75.2 mg | ClC1=CC(=CC(=C1)I)Cl | C6H3Cl2I
reactant | toluene | 2.1 mmol, 220 μL | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 1.25M | Cl | ClH
reactant | EtOH | 7.2 mmol, 5.8 mL | CCO | C2H6O
catalyst | copper(I) iodide | 7.9 mg | [Cu]I
product | 3-[(3,5-Dichloro-phenoxy)-(4,4-difluorocyclohexyl)methyl]pyrrolidine | ClC=1C=C(OC(C2CNCC2)C2CCC(CC2)(F)F)C=C(C1)Cl | C17H21Cl2F2NO
